US08183275B2
A suspension of Pd (10 wt % on carbon) in a solution of methyl 3-[1-[(dimethylamino)sulfonyl]-4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]acrylate (2.39 g, 7 mmol) in methanol (75 mL) was stirred under an atmosphere of hydrogen overnight. The reaction mixture was filtered through Celite and concentrated in vacuo. Chromatography of the residue over silica gel eluting with 0-60% ethyl acetate/hexane afforded methyl 3-[1-[(dimethylarnino)sulfonyl]-4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]propanoate.

reactant | methyl 3-[1-[(dimethylamino)sulfonyl]-4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]acrylate | 7 mmol, 2.39 g | CN(S(=O)(=O)N1C(=NC(=C1)CC(CC)(C)C)C=CC(=O)OC)C | C15H25N3O4S
solvent | methanol | 75 mL | CO | CH4O
catalyst | Pd | [Pd] | Pd
product | methyl 3-[1-[(dimethylarnino)sulfonyl]-4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]propanoate | CN(S(=O)(=O)N1C(=NC(=C1)CC(CC)(C)C)CCC(=O)OC)C | C15H27N3O4S
